US07544690B2
To a solution of pyrrolidin-3-yl-carbamic acid tert-butyl ester (1.00 g, 5.37 mmol) in CH2Cl2 (10 mL) was added diisopropylethylamine (1.96 mL, 5.92 mmol). The mixture was cooled at 0° C. and a solution of 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride (2.01 g, 5.92 mmol) in CH2Cl2 (10 mL) was added below 10° C. The reaction mixture was stirred at 4° C. for 15 min, dissolved in CHCl3 and saturated aqueous NaHCO3. The two phases were separated, the aqueous layer was extracted with CHCl3 (twice). The combined organic layer was dried over MgSO4, filtered, concentrated, and dried under reduced pressure to give a pale brown solid. To a solution of the above solid in CHCl3 (50 mL) was added 4 M hydrogen chloride in EtOAc (50 mL). The mixture was stirred at ambient temperature for 1 hr, filtered, washed with EtOAc, and dried under reduced pressure to give 1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-pyrrolidin-3-ylamine hydrochloride (1.83 g, 80%) as a white solid.

reactant | pyrrolidin-3-yl-carbamic acid tert-butyl ester | 5.37 mmol, 1.00 g | C(C)(C)(C)OC(NC1CNCC1)=O | C9H18N2O2
reactant | diisopropylethylamine | 5.92 mmol, 1.96 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 5.92 mmol, 2.01 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-(4-bromo-2-trifluoromethoxy-benzenesulfonyl)-pyrrolidin-3-ylamine hydrochloride | 1.83 g, 80% | Cl.BrC1=CC(=C(C=C1)S(=O)(=O)N1CC(CC1)N)OC(F)(F)F | InChI=1S/C11H12BrF3N2O3S.ClH/c12-7-1-2-10(9(5-7)20-11(13,14)15)21(18,19)17-4-3-8(16)6-17;/h1-2,5,8H,3-4,6,16H2;1H
